US07399759B2
3-[3-[2-(4-Oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propoxy]propanoic acid
A mixture of tert-butyl 3-[3-[2-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propoxy]propanoate (3.9 g, 9.1 mmol) and trifluoroacetic acid (30 ml) was stirred at room temperature for 1.5 hrs. The reaction mixture was concentrated under reduced pressure to obtain crystals which were collected by filtration and recrystallized from chloroform to give the titled compound (3.0 g, 89%).

reactant | tert-butyl 3-[3-[2-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propoxy]propanoate | 9.1 mmol, 3.9 g | O=C1N=C(SC2=C1C=CC=C2)C2=NC=CC(=C2)CCCOCCC(=O)OC(C)(C)C | C23H26N2O4S
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[3-[2-(4-Oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propoxy]propanoic acid | 3.0 g, 89% | O=C1N=C(SC2=C1C=CC=C2)C2=NC=CC(=C2)CCCOCCC(=O)O | C19H18N2O4S
